US04430339
(b) 9-Cyclohexyl-2-methylenenonanoic acid ethyl ester
9.2 g of 9-cyclohexyl-2-methylenenonanoic acid ethyl ester, in the form of a colourless oil, which is purified by chromatography on silica gel (migrating agent: 95:5 petroleum ether/ethyl acetate), are obtained by the procedure described in Example (1b) from 16.2 g of (7-cyclohexylheptyl)-malonic acid ethyl ester, 1.86 g of paraformaldehyde, 11.5 ml of pyridine and 0.6 ml of piperidine.

reactant | (7-cyclohexylheptyl)-malonic acid ethyl ester | 16.2 g | C(C)OC(C(C(=O)O)CCCCCCCC1CCCCC1)=O | C18H32O4
reactant | paraformaldehyde | 1.86 g | C=O | CH2O
reactant | piperidine | 0.6 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 11.5 ml | N1=CC=CC=C1 | C5H5N
product | 9-Cyclohexyl-2-methylenenonanoic acid ethyl ester | C(C)OC(C(CCCCCCCC1CCCCC1)=C)=O | C18H32O2
